US04160036
(a) 6-(4-Fluorophenyl)-3,5-hexadiene-2-one
Sodium hydroxide (2 g) in water (35 ml) was added to a stirred mixture of acetone (9.7 g) and ethanol (20 ml) cooled in a water bath. 4-Fluorocinnamaldehyde (5 g) was added dropwise to the stirred solution such that the temperature did not exceed 25°. The mixture was stirred at room temperature for 5 min, diluted with water (250 ml), adjusted to pH 1 with 5 M hydrochloric acid and extracted with ethyl acetate (3×100 ml). The combined extracts were washed with brine (1×100 ml), dried (MgSO4) and evaporated to give an orange oil (6.1 g) which was used crude in the next stage.

reactant | Sodium hydroxide | 2 g | [OH-].[Na+]
reactant | acetone | 9.7 g | CC(=O)C | C3H6O
reactant | 4-Fluorocinnamaldehyde | 5 g | FC1=CC=C(C=CC=O)C=C1 | C9H7FO
reactant | hydrochloric acid | 5 M | Cl | ClH
solvent | water | 35 ml | O | H2O
solvent | water | 250 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-(4-Fluorophenyl)-3,5-hexadiene-2-one | 6.1 g | FC1=CC=C(C=C1)C=CC=CC(C)=O | C12H11FO
